* C:\Users\stjo\Documents\GitHub\hardware\LTSpice-Simu\Analog_IN_0-10V.asc
R1 N002 N001 8k
R2 N002 0 8k
V1 N003 0 5.0 Rser=1k
V2 N001 0 40 Rser=0
R5 N002 N004 10k
D3 N004 N003 MBRS1100
D1 0 N004 MBRS1100
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 1
.backanno
.end
